Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
HA, dizziness, CP and anxiety after receiving news of death of 
family member. 
 
Major Surgical or Invasive Procedure:
Lumbar puncture
 
History of Present Illness:
___ female with a history of possible stroke, HTN, HLD, 
DM2 presenting with acute onset worst headache of life, chest 
pain, and SOB after hearing that her sister passed away. Upon 
hearing about her sister, patient began having a right sided 
headache that worsened over the course of an hour to a maximum 
___ intensity. The headache then migrated to the L side and 
behind the ear. Simultaneously, she also experienced chest pain 
above her heart that radiated medially, but not down her left 
arm or her neck. The chest pain felt like pressure on her chest 
and was worse with cough. She also endorses diaphoresis, 
tachypnea, and nausea, and one episode of emesis (mostly water). 


Patient endorses increased blurriness in her left eye (she has 
blurriness at baseline). She also endorses weakness, pain, and 
parasthesias in her left leg, which started one month ago. Her 
prior care is at ___. 

In the ED, initial vitals:  98.1 130/93 92 16 95%  
- Exam notable for: MS ___.
- Labs notable for: negative trop x2. CRP 3.0
- Imaging notable for: CTA head showing 2mm aneurysm. EKG not 
concerning for ischemia.
- Pt given:
IVF 1000 mL NS 1000 mL 
PO Prochlorperazine 10 mg  
PO DiphenhydrAMINE 25 mg  
PO Acetaminophen 1000 mg x2 
PO Lorazepam 1 mg  
- Vitals prior to transfer:  98.1 72 150/91 18 97%  

On arrival to the floor, pt reports improved HA and chest pain 
(now a ___, improved from ___. She also endorses 
resolution of nausea, though continued dry mouth. She also has 
back pain after the LP.

ROS:  
No fevers, chills, night sweats, or weight changes. No cough. No 
diarrhea or constipation. No dysuria or hematuria. No 
hematochezia, no melena.   
  

 
Past Medical History:
Possible prior stroke
HTN
Hyperlipidemia
Asthma
Diabetes
Colonic polyp
Uncoded narcotics
PTSD
HA
Obesity
Impaired glucose tolerance
Bell's palsy
Spinal disc pathology
Full thickness rotator cuff tear
Sciatica of R side
Insomnia

 
Social History:
___
Family History:
Has 9 siblings, one of whom passed from a heart attack and 
another from DM.
 
 
Physical Exam:
ADMISSIONS PHYSICAL EXAM:  
Vitals: 98 151 / 87 66 20 97  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP unable to assess given body habitus, no LAD  
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, NT/ND, no rebound tenderness or guarding, no 
organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN2-12 intact, except for decreased vision in L eye 
(unclear how vision differs from baseline). L leg 4+/5 weakness 
(chronic). 

DISCHARGE PHYSICAL EXAM
Vitals: 98.3 116 / 69 70 20 95 
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, NT/ND, no rebound tenderness or guarding, no 
organomegaly  
GU: no foley  
Ext: warm, well perfused, no edema  
Neuro: CN2-12 intact, except for decreased vision in L eye 
(unclear how vision differs from baseline). L leg 4+/5 weakness 
and decreased sensation(chronic). 

 
Pertinent Results:
ADMISSION LAB RESULTS:

___ 08:50PM BLOOD WBC-7.7 RBC-4.92 Hgb-14.2 Hct-43.8 MCV-89 
MCH-28.9 MCHC-32.4 RDW-12.6 RDWSD-41.2 Plt ___
___ 08:50PM BLOOD Neuts-69.3 ___ Monos-8.0 Eos-1.0 
Baso-0.8 Im ___ AbsNeut-5.30 AbsLymp-1.57 AbsMono-0.61 
AbsEos-0.08 AbsBaso-0.06
___ 09:36AM BLOOD ___ PTT-28.6 ___
___ 08:50PM BLOOD Glucose-164* UreaN-13 Creat-0.8 Na-139 
K-4.2 Cl-101 HCO3-23 AnGap-19
___ 03:58AM BLOOD cTropnT-<0.01
___ 08:50PM BLOOD cTropnT-<0.01
___ 08:50PM BLOOD Calcium-9.0 Phos-3.1 Mg-2.0
___ 03:58AM BLOOD CRP-3.0
___ 08:29PM URINE Color-Straw Appear-Clear Sp ___
___ 08:29PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-TR
___ 08:29PM URINE RBC-<1 WBC-3 Bacteri-NONE Yeast-NONE 
Epi-0
___ 01:46PM CEREBROSPINAL FLUID (CSF) WBC-1 RBC-2325* 
Polys-20 ___ ___ 01:45PM CEREBROSPINAL FLUID (CSF) WBC-0 RBC-2800* 
Polys-42 ___ ___ 01:45PM CEREBROSPINAL FLUID (CSF) TotProt-31 Glucose-77

MICRO:
   URINE CULTURE (Final ___:    NO GROWTH.
GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN

IMAGING:
___ Chest XR
Low lung volumes, which accentuate the bronchovascular markings 
and the 
cardiomediastinal silhouette.  Given this, no definite acute 
cardiopulmonary process.

___ CT Head W/out contrast
1. No evidence of acute intracranial abnormalities. 
2. Nonspecific supratentorial white matter hypodensities likely 
represent the sequelae of mild chronic small vessel ischemic 
disease in this age group. 
3. Trace fluid in the right sphenoid sinus.  Please correlate 
clinically 
whether the patient may have symptoms of acute sinusitis.  
  
___ CTA Head w/ and w/out contrast
PRELIMINARY Wet Read
1. 2 mm aneurysm arising on a ___xtending inferiorly 
from the 
supraclinoid right internal carotid artery (3:73, 404B:42-44). 
2. No stenosis, occlusion, or dissection in the great vessels of 
the head. 
3. Final read pending 3D reformations. 

DISCHARGE LABS:
___ 05:24AM BLOOD WBC-6.0 RBC-4.45 Hgb-12.7 Hct-40.3 MCV-91 
MCH-28.5 MCHC-31.5* RDW-12.7 RDWSD-41.9 Plt ___
___ 05:24AM BLOOD Glucose-118* UreaN-11 Creat-0.7 Na-138 
K-3.8 Cl-98 HCO3-26 AnGap-___ female with a history of possible stroke, HTN, HLD, 
DM2 presenting with acute onset worst headache of life, chest 
pain, and SOB after hearing that her sister passed away.

# HA: Upon hearing devastating news about the death of her 
sister, patient's HA got much worse. Head CT was negative. CTA 
shows 2 mm aneurysm arising on a ___xtending inferiorly 
from the supraclinoid right internal carotid artery. Per 
neurosurgery, the size of aneurysm was not the cause of her 
headache, but given this was the worst HA of life, neurosurg 
recommended LP to rule out SAH. LP ___ tube showed 2325 RBC, but 
supernatant negative for xanthochromia, indicating unlikely SAH. 
Pain improved during hospital course. Per neurosurgery, patient 
may follow up with Dr ___ to review images, and can call 
___ for an appointment. 

# Chest pain: Patient has cardiovascular risk factors (HTN, HLD, 
DM). However, history not consistent with cardiac chest pain. 
EKG without ST changes. Troponin was negative x2. Pain was 
reproducible on palpation. Inpatient stress test was not 
necessary. 

# Social: Headache and chest pain began after hearing of the 
recent death of her sister. Social work was consulted. Patient 
will follow up with outpatient therapist after discharge.

#History of CVA: Continued on home ASA 81
#DM: Home metformin held and placed on HISS
#HTN/HLD: Continued on home Atenolol, atorvastatin
#Asthma: Continued on home Albuterol, Fluticasone
#PTSD: Continued on home Prazosin
#Insomnia: Treated with Trazadone

TRANSITIONAL:
#Follow up: with Dr ___ neurosurgery to review images, 
and can call ___ for an appointment. 

# CODE STATUS: Full  
# CONTACT: ___ ___ (daughter)
___ ___ (daughter)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Zolpidem Tartrate 5 mg PO QHS 
5. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q12H:PRN Pain - 
Moderate 
6. Albuterol Inhaler 2 PUFF IH Q6H:PRN Asthma 
7. Fluticasone Propionate 110mcg 2 PUFF IH BID 
8. Ibuprofen Suspension 600 mg PO Q6H:PRN Pain - Moderate 
9. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
10. Lisinopril 10 mg PO DAILY 
11. Atorvastatin 40 mg PO QPM 
12. Hydrochlorothiazide 25 mg PO DAILY 
13. Prazosin 1 mg PO QPM 
14. DiphenhydrAMINE 25 mg PO QPM:PRN insomnia 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN Asthma  
2.  Aspirin 81 mg PO DAILY  
3.  Atenolol 50 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  DiphenhydrAMINE 25 mg PO QPM:PRN insomnia  
6.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
7.  Hydrochlorothiazide 25 mg PO DAILY  
8.  Ibuprofen Suspension 600 mg PO Q6H:PRN Pain - Moderate  
9.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H  
10.  Lisinopril 10 mg PO DAILY  
11.  MetFORMIN (Glucophage) 1000 mg PO BID  
12.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q12H:PRN Pain 
- Moderate  
13.  Prazosin 1 mg PO QPM  
14.  Zolpidem Tartrate 5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ 
Dolor muscular de pecho 
........................
Headache
Musculoskeletal chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Querida Senora ___, 

Usted fue hospitalizada ___ hospital ___ por ___ dolor de 
___ y dolor de pecho despues de ___ del 
___. Sentimos ___ 
___ dolor, sus resultados de laboratorios y 
examenes, creemos ___ dolor fue una respuesta de estres al 
oir ___ dolor de pecho NO fue por un ataque 
cardiac. ___ dolor ___ NO fue por un sangremiento. 

Al ___ dolor de ___, tomamos imagines ___ 
mostraron una pequena aneurisma (una dilatacion en una arteria) 
en ___. Esto no es peligroso en este momento. ___ si 
desea, puede hacer seguimient con ___ para discutir 
___ esa imagen. Abajo encontrara informacion 
___ de ___. 

Sinceramente, 
___ de ___ 
...............................................................
Dear Ms. ___,

You were admitted to ___ because of a headache and chest pain 
after hearing about your sister's passing. We are very sorry for 
your loss. Based on the description of your pain, labs, and 
imaging, we believe the pain was your response to the stress of 
hearing about your sister. The chest pain was unlikely to be due 
to a heart attack. The pain in your head was not because you had 
any bleeding. 
 
In evaluating your headache, we did some imaging which showed a 
small aneurysm in an artery in your brain. This is not currently 
dangerous, but you should follow up with neurosurgery to discuss 
the imaging. See information about your appointment below.

Sincerely,
Your ___ Team 
 
Followup Instructions:
___